US07268157B2
To a solution of potassium carbonate (2 kg) in acetonitrile (5000 ml) is added 2-[(2-(4-fluorobenzoyl)phenyl)amino]-3-(4-hydroxyphenyl)-propionic acid methyl ester (581 g, 1.48 mol) and 1,2-dibromoethane (1000 ml). Then the mixture is stirred at room temperature for 24 hours. After that, the reaction mixture is filtered, and then the filtrate is evaporated under a vacuum. The crude product is purified by silica gel chromatography using hexane/EtOAc (4:1) as eluent to give 2-[(2-(4-fluorobenzoyl)phenyl)amino]-3-[4-(2-bromoethoxy)-phenyl]-propionic acid methyl ester (429 g, 58%).

reactant | potassium carbonate | 2 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[(2-(4-fluorobenzoyl)phenyl)amino]-3-(4-hydroxyphenyl)-propionic acid methyl ester | 1.48 mol, 581 g | COC(C(CC1=CC=C(C=C1)O)NC1=C(C=CC=C1)C(C1=CC=C(C=C1)F)=O)=O | C23H20FNO4
reactant | 1,2-dibromoethane | 1000 ml | BrCCBr | C2H4Br2
solvent | acetonitrile | 5000 ml | C(C)#N | C2H3N
product | 2-[(2-(4-fluorobenzoyl)phenyl)amino]-3-[4-(2-bromoethoxy)-phenyl]-propionic acid methyl ester | 429 g, 58% | COC(C(CC1=CC=C(C=C1)OCCBr)NC1=C(C=CC=C1)C(C1=CC=C(C=C1)F)=O)=O | C25H23BrFNO4
